US04282245
To a mixture of 393 mg of 2-(10,11-dihydro-7-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide and 12 ml of ethanol was added 1.2 g of potassium hydroxide in 3 ml of water, and the mixture was refluxed with stirring for 7.5 hours. The solvent or ethanol was removed by distillation to obtain a mixture, to which was added water, and the resulting mixture was washed with benzene. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain an orange oil, which was chromatographed over 10 g of silica gel and eluted with chloroform, thereby obtaining 138 mg (yield: 33%) of 2-(10,11-dihydro-7-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid as a light yellow oil.

reactant | 2-(10,11-dihydro-7-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide | 393 mg | COC1=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)N)C)=O)C=C1 | C18H17NO3S
reactant | ethanol | 12 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 1.2 g | [OH-].[K+]
solvent | water | 3 ml | O | H2O
product | 2-(10,11-dihydro-7-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid | 138 mg, yield: 33% | COC1=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)O)C)=O)C=C1 | C18H16O4S
